US07268150B2
A chloroform solution of 2.0 g of tert-butyl piperidin-4-ylcarbamate was added to a mixed solution of 4.7 ml of acetic anhydride and 1.9 ml of formic acid, and the reaction mixture was stirred at room temperature for 15 hours. Water was added to the reaction mixture, and this was extracted with EtOAc. The organic layer was washed with 1 M hydrochloric acid, aqueous saturated sodium hydrogencarbonate and brine. This was dried with anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified with silica gel column chromatography (eluent: chloroform/MeOH=50/1) to obtain 1.7 g of tert-butyl (1-formylpiperidin-4-yl)carbamate.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | tert-butyl piperidin-4-ylcarbamate | 2.0 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | acetic anhydride | 4.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1.9 ml | C(=O)O | CH2O2
solvent | Water | O | H2O
product | tert-butyl (1-formylpiperidin-4-yl)carbamate | 1.7 g | C(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C11H20N2O3
